US04463002
In the same manner as Example 8, 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn-isomer) was reacted with iodomethyl isobutyrate in the presence of triethylamine to give isobutyryloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer), mp 95°-100° C. (decompn.).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
reactant | iodomethyl isobutyrate | C(C(C)C)(=O)OCI | C5H9IO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | isobutyryloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCOC(C(C)C)=O)C1=O)=NOC | C18H21N5O7S2
